US09216988B2
To a solution of 4-fluorobenzaldehyde (5 g, 40.2 mmol) in N,N-dimethylformamide (130 mL) was added potassium carbonate (8.35 g, 60.4 mmol) and 1-piperazin-1-ylethanone (10.3 g, 80.5 mmol) and the reaction was stirred at 130° C. for 16 hours. The reaction was then cooled to ambient temperature, diluted with EtOAc and washed with water (×2) and brine. The organic layer was then dried with MgSO4, concentrated and purified by silica gel column chromatography (0-10% methanol in dichloromethane) to give 4-(4-acetylpiperazin-1-yl)benzaldehyde (5.96 g, 64% yield). LCMS (m/z) ES+ 233 [M+1]+.

reactant | 4-fluorobenzaldehyde | 40.2 mmol, 5 g | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | potassium carbonate | 60.4 mmol, 8.35 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-piperazin-1-ylethanone | 80.5 mmol, 10.3 g | N1(CCNCC1)C(C)=O | C6H12N2O
solvent | N,N-dimethylformamide | 130 mL | CN(C=O)C | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-(4-acetylpiperazin-1-yl)benzaldehyde | 5.96 g, 64% yield | C(C)(=O)N1CCN(CC1)C1=CC=C(C=O)C=C1 | C13H16N2O2
